US05030654
3-{1-[(cis-4-Ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}-2-(cyclohexyl)propanoic acid
3-{1-[(cis-4-Ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}-2-(cyclohex-2-enyl)propanoic acid (185 mg, 0.441 mmol) was dissolved in absolute ethanol (50 ml) and hydrogenated at 50 p.s.i. (3.45 bar) over 5% palladium on charcoal (10 mg) as catalyst. The solution was filtered and the solvent evaporated to give the title compound as a colourless gum (180 mg, 97%). Found: C,65.56; H,9.05; N,3.31. C24H39NO5.H2O requires C,65.57; H,9.39; N,3.18%.

reactant | 3-{1-[(cis-4-Ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}-2-(cyclohex-2-enyl)propanoic acid | 0.441 mmol, 185 mg | C(C)OC(=O)[C@H]1CC[C@H](CC1)NC(=O)C1(CCCC1)CC(C(=O)O)C1C=CCCC1 | C24H37NO5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
product | 3-{1-[(cis-4-Ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}-2-(cyclohexyl)propanoic acid | 180 mg, 97% | C(C)OC(=O)[C@H]1CC[C@H](CC1)NC(=O)C1(CCCC1)CC(C(=O)O)C1CCCCC1 | C24H39NO5
